US08357679B2
C: 1-(Cyclopropylmethyl)-3-(4-(4-(4-(1,1,1,3,3,3-hexafluoro-2-hydroxypropan-2-yl)benzyl)-1,4-diazepane-1-carbonyl)phenyl)urea
To a mixture of 4-(3-(cyclopropylmethyl)ureido)benzoic acid (2.134 mmol, 0.5 g), 2-(4-((1,4-diazepan-1-yl)methyl)phenyl)-1,1,1,3,3,3-hexafluoropropan-2-ol (2.134 mmol, 0.761 g) and triethylamine (5.34 mmol, 0.744 mL, 0.540 g) in dichloromethane (30 mL) was added N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride (2.56 mmol, 0.491 g). The reaction was stirred for 24 hours then was chromatographed on silica eluting with dichloromethane to dichloromethane/methanol (6%) then re-chromatographed on silica eluting with ethyl acetate to ethyl acetate/methanol (2%) to give the title compound (780 mg). MS (ESI) m/z 573.0 [M+H]+

reactant | 4-(3-(cyclopropylmethyl)ureido)benzoic acid | 2.134 mmol, 0.5 g | C1(CC1)CNC(NC1=CC=C(C(=O)O)C=C1)=O | C12H14N2O3
reactant | 2-(4-((1,4-diazepan-1-yl)methyl)phenyl)-1,1,1,3,3,3-hexafluoropropan-2-ol | 2.134 mmol, 0.761 g | N1(CCNCCC1)CC1=CC=C(C=C1)C(C(F)(F)F)(C(F)(F)F)O | C15H18F6N2O
reactant | triethylamine | 5.34 mmol, 0.744 mL, 0.540 g | C(C)N(CC)CC | C6H15N
reactant | N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride | 2.56 mmol, 0.491 g | Cl.CN(CCCN=C=NCC)C
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
product | 1-(Cyclopropylmethyl)-3-(4-(4-(4-(1,1,1,3,3,3-hexafluoro-2-hydroxypropan-2-yl)benzyl)-1,4-diazepane-1-carbonyl)phenyl)urea | 780 mg | C1(CC1)CNC(=O)NC1=CC=C(C=C1)C(=O)N1CCN(CCC1)CC1=CC=C(C=C1)C(C(F)(F)F)(C(F)(F)F)O | C27H30F6N4O3
